US03978121
D. preparation of 5-(3-dimethylaminopropyl)-5-hydroxy-3-methylsulfonyl-5H-dibenzo[a,d]cycloheptene
5-(3-Dimethylaminopropyl)-5-hydroxy-3-methylmercapto-5H-dibenzo[a,d]cycloheptene, 21.53 g. (0.063 mole), is dissolved in glacial acetic acid, 250 ml., and the solution is cooled in an ice-bath while 30% hydrogen peroxide, 25.8 ml., is added dropwise with stirring. After standing at room temperature for twenty-two hours, the solution is saturated with sulfur dioxide for 1 hour with periodic cooling in an ice-bath. The solution is made basic with 10 N. sodium hydroxide solution, 625 ml., and extracted with three 300 ml. portions of benzene. After washing the combined extracts with water, solvent is distilled under reduced pressure leaving a yellow oily residue, weight 23.20 g. The oil solidifies on standing at room temperature. Four recrystallizations from methanol-water gives 13.22 g. (57%) of product melting at 170.5°-171.5°C.

reactant | 5-(3-Dimethylaminopropyl)-5-hydroxy-3-methylmercapto-5H-dibenzo[a,d]cycloheptene | CN(CCCC1(C2=C(C=CC3=C1C=C(C=C3)SC)C=CC=C2)O)C | C21H25NOS
reactant | hydrogen peroxide | OO | H2O2
reactant | sulfur dioxide | S(=O)=O | O2S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(3-dimethylaminopropyl)-5-hydroxy-3-methylsulfonyl-5H-dibenzo[a,d]cycloheptene | CN(CCCC1(C2=C(C=CC3=C1C=C(C=C3)S(=O)(=O)C)C=CC=C2)O)C | C21H25NO3S
